US07863446B2
Synthesis of ethyl 5-amino-1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-3-(methylthio)-1H-pyrazole-4-carboxylate
Ethyl 2-cyano-3,3-bis(methylthio)acrylate (0.3 g, 1.36 mmol) was heated with 4-hydrazino-5,6-diphenyl-2-(trifluoromethyl)pyrimidine (0.15 g, 0.45 mmol) in methanol (6 ml) overnight at 60-65° C. The solid that separated out from the reaction mixture was filtered and washed with isopropylalcohol (5 ml), to furnish the required compound. 1H-NMR (DMSO-d6) δ: 1.22-1.25 (t, 3H), 3.16 (s, 3H), 4.11-4.17 (q, 2H), 4.36 (br, 2H, D2O exchangeable), 7.12 (d, 2H), 7.25-7.35 (m, 7H), 7.69 (d, 1H). MS m/z: 500.1 (M++1).

reactant | Ethyl 2-cyano-3,3-bis(methylthio)acrylate | 1.36 mmol, 0.3 g | C(#N)C(C(=O)OCC)=C(SC)SC | C8H11NO2S2
reactant | 4-hydrazino-5,6-diphenyl-2-(trifluoromethyl)pyrimidine | 0.45 mmol, 0.15 g | N(N)C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C17H13F3N4
solvent | methanol | 6 ml | CO | CH4O
product | ethyl 5-amino-1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-3-(methylthio)-1H-pyrazole-4-carboxylate | NC1=C(C(=NN1C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F)SC)C(=O)OCC | C24H20F3N5O2S
